US07425568B2
2-(4-Ethylphenyl)chroman-6-ol was prepared as described for 2-(3-fluorophenyl)chroman-6-ol in Example 9(c) starting from 425 mg of 2-(4-ethyl-phenyl)chroman-4,6-diol. The product was purified using heptane-ethyl acetate (3:1) as an eluant. 1H NMR (400 MHz, CD3OD) δ: 7.26 (d, 2H, J 8.2 Hz), 7.13 (d, 2H, J 8.2 Hz), 6.65 (d, 1H, J 8.6 Hz), 6.55 (dd, 1H, J 8.6, 2.8 Hz), 6.51 (d, 1H, J 2.8 Hz), 4.83 (dd, 1H, J 10.1, 2.3 Hz), 2.84 (m, 1H), 2.62 (m, 1H), 2.59 (q, 2H, J 7.6 Hz), 2.03 (m, 1H), 1.93 (m, 1H), 1.19 (t, 3H, J 7.6 Hz).

reactant | 2-(3-fluorophenyl)chroman-6-ol | FC=1C=C(C=CC1)C1OC2=CC=C(C=C2CC1)O | C15H13FO2
reactant | 2-(4-ethyl-phenyl)chroman-4,6-diol | 425 mg | C(C)C1=CC=C(C=C1)C1OC2=CC=C(C=C2C(C1)O)O | C17H18O3
product | 2-(4-Ethylphenyl)chroman-6-ol | C(C)C1=CC=C(C=C1)C1OC2=CC=C(C=C2CC1)O | C17H18O2
